US07943776B2
N-cyclopropyl-4-methyl-3-{[4-(pyridin-2-ylmethoxy)benzoyl]amino}benzamide hydrochloride
Using an analogous procedure to that described in Example 36, N-cyclopropyl-4-methyl-3-{[4-(pyridin-2-ylmethoxy)benzoyl]amino}benzamide was reacted with hydrochloric acid to give the title compound; NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.68 (m, 2H), 2.24 (s, 3H), 2.86 (m, 1H), 5.44 (s, 2H), 7.18 (d, 2H), 7.32 (m, 1H), 7.65 (m, 2H), 7.81 (m, 2H), 7.98 (d, 2H), 8.19 (m, 1H), 8.36 (m, 1H), 8.73 (m, 1H), 9.85 (s, 1H); Mass Spectrum: M+H+ 401.

reactant | N-cyclopropyl-4-methyl-3-{[4-(pyridin-2-ylmethoxy)benzoyl]amino}benzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)OCC1=NC=CC=C1)=O)=O | C24H23N3O3
reactant | hydrochloric acid | Cl | ClH
product | N-cyclopropyl-4-methyl-3-{[4-(pyridin-2-ylmethoxy)benzoyl]amino}benzamide hydrochloride | Cl.C1(CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)OCC1=NC=CC=C1)=O)=O | InChI=1S/C24H23N3O3.ClH/c1-16-5-6-18(24(29)26-19-9-10-19)14-22(16)27-23(28)17-7-11-21(12-8-17)30-15-20-4-2-3-13-25-20;/h2-8,11-14,19H,9-10,15H2,1H3,(H,26,29)(H,27,28);1H
